US06794389B2
cis-4-Trifluoroacetylaminomethyl-N-{2-[2-(2-pyridyl)ethenyl]-6-methoxyquinazolin-4-yl}cyclohexylamine
A solution of 140 mg of cis-4-trifluoroacetylaminomethylcyclohexylamine in 15 mL of toluene was combined with 180 mg of 4-chloro-6-methoxy-2-[2-(2-pyridyl)ethenyl]quinazoline, 500 mg of triethylamine and 20 mg of 4-dimethylaminopyridine, and heated under reflux for 15 hours. After the reaction solution was distilled off, the residue was combined with water, and extracted with chloroform. After drying over magnesium sulfate and concentrating, the residue was purified by column chromatography on silica gel (chloroform:methanol=30:1) to obtain 140 mg of the desirable compound.

reactant | cis-4-trifluoroacetylaminomethylcyclohexylamine | 140 mg | FC(C(=O)NC[C@H]1CC[C@H](CC1)N)(F)F | C9H15F3N2O
reactant | 4-chloro-6-methoxy-2-[2-(2-pyridyl)ethenyl]quinazoline | 180 mg | ClC1=NC(=NC2=CC=C(C=C12)OC)C=CC1=NC=CC=C1 | C16H12ClN3O
reactant | triethylamine | 500 mg | C(C)N(CC)CC | C6H15N
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | cis-4-Trifluoroacetylaminomethyl-N-{2-[2-(2-pyridyl)ethenyl]-6-methoxyquinazolin-4-yl}cyclohexylamine | 140 mg | FC(C(=O)NC[C@H]1CC[C@H](CC1)NC1=NC(=NC2=CC=C(C=C12)OC)C=CC1=NC=CC=C1)(F)F | C25H26F3N5O2
